US07704996B2
To a solution of 2-cyano-4-(2-piperidin-4-yl-ethoxy)-6-[(spiro[2.5]oct-6-ylmethyl)amino]-pyrimidine-5-carboxylic acid benzylamide (0.19 mmol) in THF (2 mL) is added formaldehyde solution (100 μL), and the resulting solution is stirred for 0.5 h at room temperature. After cooled to 0° C., 1 M NaBH3CN solution in THF is added dropwise, and the reaction mixture is stirred for 2 h at room temperature. The reaction is quenched by the addition of H2O, and extracted twice with AcOEt. The organic layer is dried over Na2SO4, filtered, and concentrated. The residue is purified by silica gel column to give 2-cyano-4-[2-(1-methylpiperidin-4-yl)ethoxy]-6-[(spiro[2.5]oct-6-ylmethyl)amino]pyrimidine-5-carboxylic acid benzylamide as a colorless oil; 1H-NMR (CDCl3), δ 0.17-0.30 (4H, m), 0.89-0.94 (2H, m), 1.14-1.29 (3H, m), 1.40-1.50 (2H, m), 1.58-1.78 (9H, m), 1.95-2.01 (3H, m), 2.38 (3H, s), 2.95-2.98 (2H, m), 3.42 (2H, t), 4.46 (2H, t), 4.56 (2H, d), 7.31-7.39 (5H, m), 8.13 (1H, t), 10.16 (1H, t).

reactant | 2-cyano-4-(2-piperidin-4-yl-ethoxy)-6-[(spiro[2.5]oct-6-ylmethyl)amino]-pyrimidine-5-carboxylic acid benzylamide | 0.19 mmol | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1NCC1CCC2(CC2)CC1)C#N)OCCC1CCNCC1 | C29H38N6O2
reactant | formaldehyde | 100 μL | C=O | CH2O
reactant | NaBH3CN | 1 M | [BH3-]C#N.[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-cyano-4-[2-(1-methylpiperidin-4-yl)ethoxy]-6-[(spiro[2.5]oct-6-ylmethyl)amino]pyrimidine-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1NCC1CCC2(CC2)CC1)C#N)OCCC1CCN(CC1)C | C30H40N6O2
